US09029536B2
B) 6-[1-(1-Methylethyl)-1H-pyrazolo[4,3-b]pyridin-3-yl]pyridin-3-ol
A mixture of 3-[5-(benzyloxy)pyridin-2-yl]-1-(1-methylethyl)-1H-pyrazolo[4,3-b]pyridine (219 mg) and 10% Pd—C (50% wet, 73.1 mg) in MeOH (3 mL) and AcOEt (3 mL) was hydrogenated under balloon pressure at room temperature overnight. The solid was filtrated and washed with MeOH (10 mL). The filtrate was concentrated under reduced pressure to give the title compound (140 mg).

reactant | 3-[5-(benzyloxy)pyridin-2-yl]-1-(1-methylethyl)-1H-pyrazolo[4,3-b]pyridine | 219 mg | C(C1=CC=CC=C1)OC=1C=CC(=NC1)C1=NN(C=2C1=NC=CC2)C(C)C | C21H20N4O
solvent | MeOH | 3 mL | CO | CH4O
solvent | AcOEt | 3 mL | CCOC(=O)C | C4H8O2
catalyst | Pd—C | 73.1 mg | [Pd] | Pd
product | 6-[1-(1-Methylethyl)-1H-pyrazolo[4,3-b]pyridin-3-yl]pyridin-3-ol | 140 mg | CC(C)N1N=C(C2=NC=CC=C21)C2=CC=C(C=N2)O | C14H14N4O
